US05223529
(RS)-N-(3-Methylphenylcarbamo-yl)valine may be prepared in a manner similar to that described in Example 35 for the preparation of (RS)-N-(3-methylphenylcarbamoyl)phenylglycine, but starting with (RS)-valine (4.7 g), sodium hydrogen carbonate (3.36 g) and 3-methylphenyl isocyanate (5.14 cc). (RS)-N-(3-Methylphenylcarbamoyl)valine (6.6 g), m.p. 170° C., is thereby obtained.

reactant | (RS)-N-(3-Methylphenylcarbamo-yl)valine | CC=1C=C(C=CC1)[CH2+]=NC(C(C)C)C(=O)O
reactant | (RS)-valine | 4.7 g | NC(C(C)C)C(=O)O | C5H11NO2
reactant | sodium hydrogen carbonate | 3.36 g | C(O)([O-])=O.[Na+]
reactant | 3-methylphenyl isocyanate | 5.14 cc | CC=1C=C(C=CC1)N=C=O | C8H7NO
product | (RS)-N-(3-Methylphenylcarbamoyl)valine | 6.6 g | CC=1C=C(C=CC1)NC(=O)NC(C(C)C)C(=O)O | C13H18N2O3
